US08242124B2
Ethyl 2-(7-(3-(hydroxymethyl)-1H-1,2,4-triazol-1-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetate (70 mg, 0.203 mmol) and K2CO3 (56.0 mg, 0.405 mmol) were dissolved in MeOH (2 mL) and water (2.000 mL). The mixture was stirred at room temperature overnight, and neutralized with 1N HCl to pH 3. All solvents were removed under vacuum to give 2-(7-(3-(hydroxymethyl)-1H-1,2,4-triazol-1-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid. LCMS: m/z 318.2 (M+H)+, 1.04 min (method 8).

reactant | Ethyl 2-(7-(3-(hydroxymethyl)-1H-1,2,4-triazol-1-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetate | 0.203 mmol, 70 mg | OCC1=NN(C=N1)C=1N=CC(=C2C1NC=C2C(C(=O)OCC)=O)OC | C15H15N5O5
reactant | K2CO3 | 0.405 mmol, 56.0 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 2 mL | CO | CH4O
solvent | water | 2.000 mL | O | H2O
product | 2-(7-(3-(hydroxymethyl)-1H-1,2,4-triazol-1-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid | OCC1=NN(C=N1)C=1N=CC(=C2C1NC=C2C(C(=O)O)=O)OC | C13H11N5O5
